US08383827B2
A flask was charged with 6-chloro-2-iodo-1-methyl-1H-benzo[d]imidazole (627 mg, 2.145 mmol), DMF (10 mL), 2M aqueous sodium carbonate (2.145 mL, 4.29 mmol) and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinaldehyde (1 g, 4.29 mmol). Nitrogen was bubbled through the mixture for 10 min and polymer bound Pd(PPh3)4 (1.19 g, 0.107 mmol) was added. The mixture was heated to 160° C. under micro-wave irradiation for 30 min. The mixture was filtered through a thin pad of celite, which was washed with EtOAc (100 mL). The filtrate was poured into water (200 mL) and extracted with EtOAc (500 mL). The organic phase was washed with water (50 mL), dried over Na2SO4 and concentrated. The residue was purified by silica chromatography eluting with 20 to 100% EtOAc in heptane to give 5-(6-chloro-1-methyl-1H-benzo[d]imidazol-2-yl)nicotinaldehyde. ESI-MS: m/z 272.1 (M+H)+.

reactant | 6-chloro-2-iodo-1-methyl-1H-benzo[d]imidazole | 2.145 mmol, 627 mg | ClC=1C=CC2=C(N(C(=N2)I)C)C1 | C8H6ClIN2
reactant | sodium carbonate | 4.29 mmol, 2M, 2.145 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinaldehyde | 4.29 mmol, 1 g | CC1(OB(OC1(C)C)C=1C=NC=C(C=O)C1)C | C12H16BNO3
catalyst | Pd(PPh3)4 | 0.107 mmol, 1.19 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(6-chloro-1-methyl-1H-benzo[d]imidazol-2-yl)nicotinaldehyde | ClC=1C=CC2=C(N(C(=N2)C=2C=NC=C(C=O)C2)C)C1 | C14H10ClN3O
